US09079866B2
4′-(5-Aminopyrazin-2-yl)-3′-fluoro-N-methylbiphenyl-2-carboxamide
The title compound was prepared using methods analogous to those described in Step C of Example 504 using 4′-(2-aminopyrazin-5-yl)-3′-fluoro-[1,1′-biphenyl]-2-carboxylic acid and methylamine. MS (ESI): mass calcd. for C18H15FN4O, 322.12; m/z found, 323.1 [M+H]+. 1H NMR (400 MHz, DMSO-d6) δ 8.35 (dd, J=2.3, 1.6, 1H), 8.15 (d, J=4.7, 1H), 8.00 (d, J=1.5, 1H), 7.84 (d, J=8.1, 1H), 7.52-7.41 (m, 4H), 7.27 (s, 1H), 7.24 (dd, J=5.5, 1.7, 1H), 6.68 (s, 2H), 2.59 (d, J=4.6, 3H).

reactant | 4′-(2-aminopyrazin-5-yl)-3′-fluoro-[1,1′-biphenyl]-2-carboxylic acid | NC1=NC=C(N=C1)C1=C(C=C(C=C1)C=1C(=CC=CC1)C(=O)O)F | C17H12FN3O2
reactant | methylamine | CN | CH5N
product | 4′-(5-Aminopyrazin-2-yl)-3′-fluoro-N-methylbiphenyl-2-carboxamide | NC=1N=CC(=NC1)C1=C(C=C(C=C1)C=1C(=CC=CC1)C(=O)NC)F | C18H15FN4O
